US08022222B2
(5-(2-chloropyridin-4-yloxy)-4,6-dimethylpyridin-3-yl)methanol (5.00 g, 18.9 mmol) was charged with NaOH (0.1N in H2O, 19 ml, 1.9 mmol). 3% Aqueous KMnO4 (119 ml, 22.7 mmol) was then added. The reaction stirred at room temperature overnight. The solution was diluted with dichloromethane, filtered through celite, and acidified with citric acid. The organic layer was separated and the aqueous layer was extracted with DCM. The combined organic layers were dried and concentrated to give 5-(2-chloropyridin-4-yloxy)-4,6-dimethylnicotinic acid (2.66 g, 51%).

reactant | (5-(2-chloropyridin-4-yloxy)-4,6-dimethylpyridin-3-yl)methanol | 18.9 mmol, 5.00 g | ClC1=NC=CC(=C1)OC=1C(=C(C=NC1C)CO)C | C13H13ClN2O2
reactant | NaOH | 1.9 mmol, 0.1N, 19 ml | [OH-].[Na+]
reactant | KMnO4 | 22.7 mmol, 119 ml | [O-][Mn](=O)(=O)=O.[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(2-chloropyridin-4-yloxy)-4,6-dimethylnicotinic acid | 2.66 g, 51% | ClC1=NC=CC(=C1)OC=1C(=NC=C(C(=O)O)C1C)C | C13H11ClN2O3
